US04851540
(a) Production of 3-phenylazontetronic acid [3-phenylazo-4-hydroxyfuran-2(5H)-one]
300 ml of 6N hydrochloric acid solution was placed in a 1.5-liter flask equipped with a 250-ml dropping funnel, a mechanical stirrer and a thermometer. 57.6 g (0.61 mol) of distilled aniline was added with ice cooling. A solution of 43.92 g (0.64 mol) of sodium nitrite in 90 ml of ice water was added dropwise the resulting suspension and stirred for 40 min. The resultant diazonium salt solution was added dropwise to a solution of 60 g (0.6 mol) of tetronic acid and 120 g (0.88 mol) of sodium acetate trihydrate in 900 ml of water for 30 min. After this addition a yellow solid immediately precipitated. The reaction mixture was stirred at 10° C. for 1.5 hours, and filtered off; and the product was washed with 500 ml of cold methanol. It was dried at 35° C. in a vacuum. Concerning the product: Yield: 113.2 g = 92.4 percent. Melting point: 199°-200° C. (decomp.).

reactant | hydrochloric acid | 6N, 300 ml | Cl | ClH
reactant | aniline | 0.61 mol, 57.6 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | 0.64 mol, 43.92 g | N(=O)[O-].[Na+]
reactant | tetronic acid | 0.6 mol, 60 g | C1C(=O)COC1=O | C4H4O3
reactant | sodium acetate trihydrate | 0.88 mol, 120 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 900 ml | O | H2O
product | 3-phenylazo-4-hydroxyfuran-2(5H)-one | C1(=CC=CC=C1)N=NC=1C(OCC1O)=O | C10H8N2O3
